US09227971B2
3-Chloroperoxybenzoic acid (11.6 g, 67.1 mmol) was dissolved in EtOAc (70 mL, 6 ml/g). The reaction mixture was stirred for 10 minutes at room temperature, and then cooled to 0° C. 2,3-cyclopentenopyridine was dissolved in EtoAc (25 ml, 5 mL/g) which was added dropwise to reaction mixture over 15 minutes keeping the temperature constant below 10° C. The reaction mixture was stirred overnight at ambient temperature. The reaction mixture was quenched with Sat. NaHCO3 (50 mL). The organic layer was dried over sodium sulfate and filtered. Acqu layer was extracted with DCM (40 mL) twice. The organic layer was dried over sodium sulfate and filtered. Combined organic layer was concentrated in vacuo and purification of the crude material via Isco (0-5% Methanol/DCM) gave rise to the desired 6,7-dihydro-5H-cyclopenta[b]pyridine 1-oxide (1.4 g).

reactant | 3-Chloroperoxybenzoic acid | 67.1 mmol, 11.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2,3-cyclopentenopyridine | C1CC2=C(C1)N=CC=C2 | C8H9N
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 6,7-dihydro-5H-cyclopenta[b]pyridine 1-oxide | 1.4 g | [N+]1(=C2C(=CC=C1)CCC2)[O-] | C8H9NO
